US04942143
7-Hexyl-3-methylxanthine and 6-(4-chlorophenoxy)hexyl bromide were reacted and treated in substantially the same manner as described in Example 9(a) to give 1-[6-(4-chlorophenoxy)hexyl]-7-hexyl-3-methylxanthine (84%) as an oil.

reactant | 7-Hexyl-3-methylxanthine | C(CCCCC)N1C=NC=2N(C(NC(C12)=O)=O)C | C12H18N4O2
reactant | 6-(4-chlorophenoxy)hexyl bromide | ClC1=CC=C(OCCCCCCBr)C=C1 | C12H16BrClO
product | 1-[6-(4-chlorophenoxy)hexyl]-7-hexyl-3-methylxanthine | 84% | ClC1=CC=C(OCCCCCCN2C(=O)N(C=3N=CN(C3C2=O)CCCCCC)C)C=C1 | C24H33ClN4O3
